US05254733
To a solution of 12.7 kg (235 mol) of sodium methoxide and 48.0 kg (214 mol) of ethyl diethylphosphonoacetate in 40 l of methanol is added dropwise 20 kg (204 mol) of 2-ethylcrotonaldehyde at 20°-30° C. during 0.5 hour. After stirring for 2 hours at same temperature, the reaction mixture is poured into the solution of 180 l of water and 120 l of toluene. The toluene layer is separated and combined with 50 l toluene extract of aqueous phase, and washed with two 120 l portions of saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent is removed and the residue is distilled under reduced pressure to give ethyl (E,E)-4-ethyl-2,4-hexadienoate (Yield 28.5 kg) (83.1%), b.p. 41°-75° C./5-8 mmHg.

reactant | sodium methoxide | 235 mol, 12.7 kg | C[O-].[Na+]
reactant | ethyl diethylphosphonoacetate | 214 mol, 48.0 kg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-ethylcrotonaldehyde | 204 mol, 20 kg | C(C)/C(/C=O)=C\C | C6H10O
reactant | water | 180 l | O | H2O
solvent | methanol | 40 l | CO | CH4O
solvent | toluene | 120 l | C1(=CC=CC=C1)C | C7H8
product | ethyl (E,E)-4-ethyl-2,4-hexadienoate | Yield 28.5 kg, 83.1% | C(C)/C(/C=C/C(=O)OCC)=C\C | C10H16O2
